US05071999
a) Ethyl N-(2,2-dimethoxyethyl)-N-(2-fluoroallyl) -carbamate
11.6 g (65.5 mmol) of ethyl N-(2,2-dimethoxyethyl)-carbamate, 15 g of powdered potassium hydroxide and 0.25 g of triethylbenzylammonium chloride are initially introduced into 65 ml of toluene and 10 g (72 mmol) of 2-fluoroallyl bromide are added dropwise at room temperature. The mixture is stirred overnight at room temperature, 100 ml of water are added, and the aqueous phase is separated off and extracted using 30 ml of toluene. The organic solutions are dried over magnesium sulphate and concentrated, and the residue is distilled.

reactant | ethyl N-(2,2-dimethoxyethyl)-carbamate | 65.5 mmol, 11.6 g | COC(CNC(OCC)=O)OC | C7H15NO4
reactant | potassium hydroxide | 15 g | [OH-].[K+]
reactant | toluene | 65 ml | C1(=CC=CC=C1)C | C7H8
reactant | 2-fluoroallyl bromide | 72 mmol, 10 g | FC(CBr)=C | C3H4BrF
catalyst | triethylbenzylammonium chloride | 0.25 g | [Cl-].C(C)[N+](CC1=CC=CC=C1)(CC)CC
solvent | water | 100 ml | O | H2O
product | Ethyl N-(2,2-dimethoxyethyl)-N-(2-fluoroallyl) -carbamate | COC(CN(C(OCC)=O)CC(=C)F)OC | C10H18FNO4
